US07108895B2
Into a 200 mL eggplant-type flask, 20.0 g (83.2 mmol) of (R)-4-(2-phenylpropyl)benzoic acid obtained in third step, 80 mL of tetrachloroethylene and 19.8 g (166 mmol) of thionyl chloride were added, followed by stirring at 70° C. for 3 hours, and excess of thionyl chloride and tetrachloroethylene were distilled off under reduced pressure to obtain 22.0 g of (R)-4-(2-phenylpropyl)benzoyl chloride [H-Ph-CH(CH3)—CH2-Ph-COCl]. Then, to a 200 mL four-necked flask, 22.0 g of (R)-4-(2-phenylpropyl)benzoyl chloride, 103 mL of toluene, 11.8 g (83.2 mmol) of trans-1-hydroxy-4-propylcyclohexane and 7.90 g (99.9 mmol) of pyridine were added, followed by stirring at room temperature overnight. Water was added to the reaction solution to separate the organic phase, the aqueous phase was extracted with toluene, and the toluene layer and the organic phase were put together and washed with diluted hydrochloric acid, a sodium hydrogen carbonate aqueous solution and saturated salt solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off to obtain a crude product. The crude product was purified by silica gel column chromatography (developing solvent: hexane/toluene=3/1), and recrystallization from ethanol was carried out to obtain 22.7 g (62.4 mmol) of (R)-1-[(trans-4-propylcyclohexyloxycarbonyl)phenyl]- 2-phenylpropane [H-Ph-CH(CH3)—CH2-Ph-C(O)O-Cy-C3H7] as white crystals (yield: 75%).

reactant | (R)-4-(2-phenylpropyl)benzoyl chloride | 22.0 g | C1(=CC=CC=C1)[C@@H](CC1=CC=C(C(=O)Cl)C=C1)C | C16H15ClO
reactant | toluene | 103 mL | C1(=CC=CC=C1)C | C7H8
reactant | trans-1-hydroxy-4-propylcyclohexane | 83.2 mmol, 11.8 g | O[C@@H]1CC[C@H](CC1)CCC | C9H18O
reactant | pyridine | 99.9 mmol, 7.90 g | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
product | (R)-1-[(trans-4-propylcyclohexyloxycarbonyl)phenyl]- 2-phenylpropane | 62.4 mmol, 22.7 g, yield: 75% | C(CC)[C@@H]1CC[C@H](CC1)OC(=O)C1=C(C=CC=C1)C[C@@H](C)C1=CC=CC=C1 | C25H32O2
